US08912188B2
To a solution of methyl 3-[methyl(propan-2-yl)amino]-2-(1-methyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylate (80 mg, 0.24 mmol) in methanol (20 mL) and CHCl3 (5 mL) was added sodium hydroxide (75 mg, 0.72 mmol) and water (1 mL). The resulting solution was stirred for overnight at room temperature and concentrated under vacuum. The residue was dissolved in water (15 mL) and adjusted to pH 5 with hydrochloric acid (3N). The solids were collected by filtration to afford 3-[methyl(propan-2-yl)amino]-2-(1-methyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid as a yellow solid (70 mg, 91%).

reactant | methyl 3-[methyl(propan-2-yl)amino]-2-(1-methyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 0.24 mmol, 80 mg | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=NN(C1)C)C(C)C | C18H21N5O2
reactant | sodium hydroxide | 0.72 mmol, 75 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-[methyl(propan-2-yl)amino]-2-(1-methyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid | 70 mg, 91% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C=NN(C1)C)C(C)C | C17H19N5O2
